US09315475B2
Step 5. (2S,3S)-2-Amino-3-(4-fluorophenyl)-3-(3,5-difluorophenyl)-N-(5-fluoro-4-(2-((2R,5R)-4-(tert-butyloxycarbonyl)-5-(2,2,2-trifluoroethylaminocarbonyloxymethyl)morpholine-2-yl)ethyl)pyridin-3-yl)propanamide
A solution of (2S,3S)-2-azido-3-(4-fluorophenyl)-3-(3,5-difluorophenyl)-N-(5-fluoro-4-(2-((2R,5R)-4-(tert-butyloxycarbonyl)-5-(2,2,2-trifluoroethylaminocarbonyloxymethyl)morpholine-2-yl)ethyl)pyridin-3-yl)propanamide (36 mg, 0.046 mmol) in 1 mL of MeOH was purged with nitrogen gas for 1 min. To the solution was added 10% palladium on carbon (18 mg) and the mixture was stirred under 1 atmosphere of hydrogen gas for 4 h. The catalyst was removed by filtration and the filtrate solvents were removed in vacuo to give a gum. LC MS: RT=1.20 min, M+H=758 (2 min gradient)

reactant | (2S,3S)-2-azido-3-(4-fluorophenyl)-3-(3,5-difluorophenyl)-N-(5-fluoro-4-(2-((2R,5R)-4-(tert-butyloxycarbonyl)-5-(2,2,2-trifluoroethylaminocarbonyloxymethyl)morpholine-2-yl)ethyl)pyridin-3-yl)propanamide | 0.046 mmol, 36 mg | N(=[N+]=[N-])[C@H](C(=O)NC=1C=NC=C(C1CC[C@@H]1CN([C@H](CO1)COC(=O)NCC(F)(F)F)C(=O)OC(C)(C)C)F)[C@H](C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)F | C35H36F7N7O6
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 1 mL | CO | CH4O
catalyst | palladium on carbon | 18 mg | [Pd] | Pd
product | (2S,3S)-2-Amino-3-(4-fluorophenyl)-3-(3,5-difluorophenyl)-N-(5-fluoro-4-(2-((2R,5R)-4-(tert-butyloxycarbonyl)-5-(2,2,2-trifluoroethylaminocarbonyloxymethyl)morpholine-2-yl)ethyl)pyridin-3-yl)propanamide | N[C@H](C(=O)NC=1C=NC=C(C1CC[C@@H]1CN([C@H](CO1)COC(=O)NCC(F)(F)F)C(=O)OC(C)(C)C)F)[C@H](C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)F | C35H38F7N5O6
